US08357711B2
1-(1-Azido-1-methylethyl)-3,5-difluorobenzene
Hydrogen azide (2M in toluene, 1.5 mol) was added to the solution of 2-(3,5-difluoro-phenyl)-propan-2-ol (Preparation 50, 145 g, 0.84 mol, 1 eq) in chloroform (1 L) and the content of the flask was cooled to −5° C. The mixture of TFA (2.5 mol, 2.98 eq) with chloroform (1:1) was added dropwise at such a rate to keep the internal temperature below −5° C. After the addition was complete, the reaction mixture was allowed to warm to room temperature and stirring was continued for 20 h. The reaction was poured into 2M sodium hydroxide and layers were separated. The aqueous phase was extracted two times with chloroform and combined organic extracts were washed with brine and dried over anhydrous magnesium sulfate. After removal of the solvent, the title compound was used in the next step without further purification (171 g, 0.87 mol, 100%).

reactant | Hydrogen azide | 1.5 mol, 2M | N=[N+]=[N-] | HN3
reactant | 2-(3,5-difluoro-phenyl)-propan-2-ol | 0.84 mol, 145 g, 1 eq | FC=1C=C(C=C(C1)F)C(C)(C)O | C9H10F2O
reactant | TFA | 2.5 mol, 2.98 eq | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | chloroform | 1 L | C(Cl)(Cl)Cl | CHCl3
product | 1-(1-Azido-1-methylethyl)-3,5-difluorobenzene | N(=[N+]=[N-])C(C)(C)C1=CC(=CC(=C1)F)F | C9H9F2N3
